US06440995B1
2-[2-(4-Chloro-phenyl)-7-methoxy-quinolin-4-ylamino]-ethanol hydrochloride
The title compound, m.p. 271-272° C., and MS: m/e=328 (M+), was prepared from 4-chloro-2-(4-chloro-phenyl)-7-methoxy-quinoline and ethanolamine.

reactant | 4-chloro-2-(4-chloro-phenyl)-7-methoxy-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)Cl | C16H11Cl2NO
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[2-(4-Chloro-phenyl)-7-methoxy-quinolin-4-ylamino]-ethanol hydrochloride | Cl.ClC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=C1)NCCO)OC | InChI=1S/C18H17ClN2O2.ClH/c1-23-14-6-7-15-17(20-8-9-22)11-16(21-18(15)10-14)12-2-4-13(19)5-3-12;/h2-7,10-11,22H,8-9H2,1H3,(H,20,21);1H
